US05629325
16a. 5-(2-(Methoxycarbonyl)ethenyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine
To a solution of 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine (272.0 mg, 1.0 mmol) in acetonitrile (3.0 mL) and triethylamine (2.5 mL) was added methyl acyrate (0.360 mL, 4.0 mmol), palladium acetate (23.0 mg, 0.1 mmol) and tri-o-tolylphosphine (122.0 mg). After being heated in a sealed tube at 100° C. overnight, the resulting mixture was cooled to room temperature. A minimum amount of saturated sodium bicarbonate was added to free the amine, and the mixture was extracted with EtOAc, dried (MgSO4), and concentrated. The residue was chromatographed on a silica gel column, eluting with CHCl3 /MeOH 10:1 to afford a light yellowish oil (205 mg, 74%). MS (CI/NH3) m/z 277 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ1.54-2.12 (m, 4H), 2.27-2.43 (m, 1H), 2.52 (s, 3H), 2.65-2.76 (m, 1H), 3.09-3.12 (m, 1H), 3.83 (s, 3H), 3.93-4.07 (m, 2H), 6.48 (d, J=16.2 Hz, 1H), 7.33 (dd, J=3.0, 2.1 Hz, 1H), 7.66 (d, J=16.2 Hz, 1H), 8.33 (d, J=3.0 Hz, 1H), 8.35 (d, J=2.1 Hz, 1H).

reactant | 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 1.0 mmol, 272.0 mg | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C11H15BrN2O
reactant | tri-o-tolylphosphine | 122.0 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetonitrile | 3.0 mL | C(C)#N | C2H3N
solvent | triethylamine | 2.5 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.1 mmol, 23.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(2-(Methoxycarbonyl)ethenyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 205 mg, 74% | COC(=O)C=CC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C15H20N2O3
